US04180672
2-n-Heptylthio-4-tetrahydropyranyloxycyclopent-2-en-1-one (80 mg) was dissolved in 5 ml of a mixture of acetic acid, water and tetrahydrofuran in a ratio of 3:1:1 and 2 ml of acetic acid, and the solution was allowed to stand at room temperature for 12 hours. The reaction mixture was neutralized with sodium bicarbonate, and extracted with ethyl acetate. The extract was treated by a customary procedure to afford 58 mg (95% yield) of 2-n-heptylthio-4-hydroxycyclopent-2-en-1-one having a single spot in thin-layer chromatography (cyclohexane/ethyl acetate=4/6). The product had the following characteristics.

reactant | 2-n-Heptylthio-4-tetrahydropyranyloxycyclopent-2-en-1-one | 80 mg | C(CCCCCC)SC=1C(CC(C1)OC1OCCCC1)=O | C17H28O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-n-heptylthio-4-hydroxycyclopent-2-en-1-one | 58 mg, 95% yield | C(CCCCCC)SC=1C(CC(C1)O)=O | C12H20O2S
